### PR TITLE
New lemmas about allpairs

### LINKED ISSUE #497: Missing allpairs lemma
`allpair0s`, `allpairs0` and `cons` variants missing

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

Fixes #497 en passant.

The former convention seemed to implicitly consit in dropping suffix
`l` when the `r` side does not exist as an equality (but rather as a
`=i` or now a `perm_eq`). If we want to change this convention, I can
open another PR after this one is merged, but it will involve even
more deprecation.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Review by pi8027 — CHANGES_REQUESTED** [review]

File: mathcomp/ssreflect/seq.v [hunk 1]
```diff
@@ -3165,21 +3201,44 @@ Section MemAllPairs.
...
 
-Lemma allpairs_consr f s t1 t2 :
-  [seq f x y | x <- s, y <- t1 x :: t2 x] =i
-  [seq f x (t1 x) | x <- s] ++ [seq f x y | x <- s, y <- t2 x].
+Lemma mem_allpairs_consr f s t y0 :
+  [seq f x y | x <- s, y <- y0 x :: t x ] =i
+  [seq f x (y0 x) | x <- s] ++ [seq f x y | x <- s, y <- t x].
+Proof. exact/perm_mem/permPl/perm_allpairs_consr. Qed.
+
+Lemma allpairs_rconsr f s y0 t :
```
Comment (pi8027) [inline mathcomp/ssreflect/seq.v:3229]:
```suggestion
Lemma perm_allpairs_rconsr f s y0 t :
```

Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:3229]: I'm anticipating on the next renaming, I wanted `perm_allpairs_rconsr` to be a temporary alias for `allpairs_rconsr`, I may have forgotten the alias though :laughing:

Comment (pi8027) [reply mathcomp/ssreflect/seq.v:3229]: Ah, I see! I didn't read CHANGELOG entries. So please add the alias instead.

File: mathcomp/ssreflect/seq.v [hunk 2]
```diff
@@ -3063,16 +3067,48 @@ Lemma size_allpairs_dep f s t :
...
+Proof. by []. Qed.
+
 Lemma eq_allpairs (f1 f2 : forall x, T x -> R) s t :
     (forall x, f1 x =1 f2 x) ->
   [seq f1 x y | x <- s, y <- t x] = [seq f2 x y | x <- s, y <- t x].
-Proof. by  move=> eq_f; rewrite (eq_map (fun x => eq_map (eq_f x) (t x))). Qed.
+Proof. by move=> eq_f; rewrite (eq_map (fun x => eq_map (eq_f x) (t x))). Qed.
+
+Lemma eq_allpairsl (f : forall x, T x -> R) s t1 t2 : (forall x, t1 x = t2 x) ->
+  [seq f x y | x <- s, y <- t1 x] = [seq f x y | x <- s, y <- t2 x].
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/seq.v:3095]:
```suggestion
Lemma eq_allpairsr (f : forall x, T x -> R) s t1 t2 : (forall x, t1 x = t2 x) ->
  [seq f x y | x <- s, y <- t1 x] = [seq f x y | x <- s, y <- t2 x].
```

File: CHANGELOG_UNRELEASED.md [hunk 3]
```diff
@@ -244,15 +244,24 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
 
 - in `polydiv.v`, new lemma `dvdpNl`.
 - in `perm.v` new lemma `permS01`.
 
-- in `seq.v`, new definition `rot_add` and new lemmas `rot_minn`, `leq_rot_add`, `rot_addC`, `rot_rot_add`.
+- in `seq.v`, new definition `rot_add` and new lemmas `rot_minn`,
+  `leq_rot_add`, `rot_addC`, `rot_rot_add`.
+
+- in `seq.v`, new lemmas `perm_catACA`, `allpairs0l`, `allpairs0r`,
+  `allpairs1l`, `allpairs1r`, `allpairs_cons`, `eq_allpairsl`,
```
Comment (CohenCyril) [inline CHANGELOG_UNRELEASED.md:259]:
```suggestion
  `allpairs1l`, `allpairs1r`, `allpairs_cons`, `eq_allpairsr`,
```

**Review by pi8027 — APPROVED** [review]
LGTM, but it would be nice if someone can take a second look.

File: CHANGELOG_UNRELEASED.md [hunk 4]
```diff
@@ -244,15 +244,24 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
-- in `seq.v`, new definition `rot_add` and new lemmas `rot_minn`, `leq_rot_add`, `rot_addC`, `rot_rot_add`.
+- in `seq.v`, new definition `rot_add` and new lemmas `rot_minn`,
+  `leq_rot_add`, `rot_addC`, `rot_rot_add`.
+
+- in `seq.v`, new lemmas `perm_catACA`, `allpairs0l`, `allpairs0r`,
+  `allpairs1l`, `allpairs1r`, `allpairs_cons`, `eq_allpairsr`,
+  `allpairs_rcons`, `perm_allpairs_catr`, `perm_allpairs_consr`,
+  `mem_allpairs_rconsr`, and `allpairs_rconsr` (with the alias
+  `perm_allpairs_rconsr` for the sake of uniformity, but which is
+  already deprecated in favor of `allpairs_rcons`, cf renamed
```
Comment (ybertot) [inline CHANGELOG_UNRELEASED.md:263]: should be `allpairs_rconsr` here.

Comment (CohenCyril) [reply CHANGELOG_UNRELEASED.md:263]:
```suggestion
  already deprecated in favor of `allpairs_rconsr`, cf renamed
```

**Comment by ybertot** [comment]
I will merge this PR once it is squashed and rebased, if need be.

**Comment by CohenCyril** [comment]
> I will merge this PR once it is squashed and rebased, if need be.

done.

**Comment by ybertot** [comment]
Thanks
